US07196111B2
To a solution of 36 mg (0.082 mmol) of 6-(4-benzyl-phenyl)-7-cyclohexyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester in 3 mL of tetrahydrofuran was added 0.5 mL (0.5 mmol) of 1 M LiOH solution, and the resulting mixture was heated at reflux overnight. The reaction mixture was then acidified with 1 M HCl solution to pH=2, and extracted with ethyl acetate. The combined organic extracts were dried over sodium sulfate, and concentrated to give a residue which was purified via reverse-phase chromatography to afford (after lyophilization) 7 mg (21% yield) of 6-(4-benzyl-phenyl)-7-cyclohexyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid as a solid (90% purity, entry 444) as indicated by 1H NMR; LC-MS—calcd for C26H25N3O2 [M++H]+: 412.19, found: 412.3.

reactant | 6-(4-benzyl-phenyl)-7-cyclohexyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester | 0.082 mmol, 36 mg | C(C)OC(=O)C=1C=NN2C1N=CC(=C2C2CCCCC2)C2=CC=C(C=C2)CC2=CC=CC=C2 | C28H29N3O2
reactant | LiOH | 0.5 mmol, 1 M, 0.5 mL | [Li+].[OH-]
reactant | HCl | 1 M | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 6-(4-benzyl-phenyl)-7-cyclohexyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 7 mg, 21% yield | C(C1=CC=CC=C1)C1=CC=C(C=C1)C=1C=NC=2N(C1C1CCCCC1)N=CC2C(=O)O | C26H25N3O2
